US06337351B1
(4E)-N-Methyl-5-(3-fluorophenyl)-4-penten-2-amine
Under a nitrogen atmosphere, a cold (0-5° C.), stirring solution of (4E)-N-methyl-N-(tert-butoxycarbonyl)-5-(3-fluorophenyl)-4-penten-2-amine (0.83 g, 2.82 mmol) in anisole (11 mL) was treated drop-wise over 30 min with trifluoroacetic acid (13.32 g, 116.8 mmol). The resulting solution was stirred for 45 min at 0-5° C. The solution was then concentrated by rotary evaporation followed by further drying under high vacuum. The resulting residue was cooled (0-5° C.), basified with 10% NaOH solution (10 mL), treated with saturated NaCl solution (10 mL) and extracted with CHCl3 (5×10 mL). The combined CHCl3 extracts were dried (Na2SO4), filtered, concentrated by rotary evaporation, and the residue was further dried under high vacuum to produce a light-yellow oil. The crude product was purified by column chromatography on silica gel (32 g), eluting with CH3OH—MeOH (3:1, v/v) containing 2% Et3N. Selected fractions containing the product (Rf 0.49) were combined and concentrated on a rotary evaporator to give 0.49 g of a light-yellow oil. The oil was purified by column chromatography on silica gel (31.5 g), eluting with CH3OH—NH4OH (100:2, v/v). Selected fractions containing the product (Rf 0.28) were combined and concentrated on a rotary evaporator to a light-yellow oil. The residue was dissolved in CHCl3. The CHCl3 solution was dried (Na2SO4), filtered, concentrated by rotary evaporation and dried under high vacuum to give 262 mg (48.1%) of a light-yellow oil.

reactant | (4E)-N-methyl-N-(tert-butoxycarbonyl)-5-(3-fluorophenyl)-4-penten-2-amine | 2.82 mmol, 0.83 g | CN(C(C)C\C=C\C1=CC(=CC=C1)F)C(=O)OC(C)(C)C | C17H24FNO2
reactant | trifluoroacetic acid | 116.8 mmol, 13.32 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 11 mL | C1(=CC=CC=C1)OC | C7H8O
product | (4E)-N-Methyl-5-(3-fluorophenyl)-4-penten-2-amine | 0.49 g | CNC(C)C\C=C\C1=CC(=CC=C1)F | C12H16FN
